US07655666B2
A solution of 2-acetylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester (708 mg, 2.46 mmol) in DCM (70 mL) was cooled to −68° C. and a flow of ozone was passed through the mixture until it turned dark green. A flow of oxygen was then passed through the mixture for 30 min and dimethyl sulfide (360 μL, 4.86 mmol) was added. This mixture was stirred for 30 min at r.t. and triphenylphosphine (327 mg, 1.23 mmol) was added. The solution was allowed to stand for 60 h at r.t. under argon. It was then concentrated in vacuo and the crude product was purified by flash chromatography (silica gel 60, hexanes/EtOAc 100:0→80:20) to afford 2-acetylamino-5-formyl-4-trifluoromethyl-benzoic acid methyl ester (591 mg, 2.04 mmol, 83%) as a beige powder, m.p. 106-108° C., ESI-MS: m/z 290 [M+H]+.

reactant | 2-acetylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester | 2.46 mmol, 708 mg | COC(C1=C(C=C(C(=C1)C=C)C(F)(F)F)NC(C)=O)=O | C13H12F3NO3
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | dimethyl sulfide | 4.86 mmol, 360 μL | CSC | C2H6S
reactant | triphenylphosphine | 1.23 mmol, 327 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylamino-5-formyl-4-trifluoromethyl-benzoic acid methyl ester | 2.04 mmol, 591 mg, 83% | COC(C1=C(C=C(C(=C1)C=O)C(F)(F)F)NC(C)=O)=O | C12H10F3NO4
